data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3325,3773,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][CH:10]=[N+:11]([CH3:12])[CH-:13][C:14](=[O:15])[NH:16][CH3:17]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH:13]([C:14](=[O:15])[NH:16][CH3:17])[N:11]([CH3:12])[CH:10]2[CH3:9],water,298.15,4.1154224345316806,-30.715255012012182
1855,2057,[CH2:17]=[N+:18]([CH3:19])[N-:20][CH3:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([Br:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([Br:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[CH2:17][N:18]([CH3:19])[N:20]2[CH3:21],water,298.15,14.232869185166884,-40.243167503844965
2220,2461,[CH3:16][N+:17](=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N-:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]([Cl:6])=[C:7]([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]([C:8](=[O:9])[NH:10][CH3:11])([C:12](=[O:13])[NH:14][CH3:15])[CH:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:17]([CH3:16])[N:25]1[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,25.940589694014047,-20.573639476857835
2386,2651,[CH3:16][NH:17][C:18](=[O:19])[C:20]([C:21]#[N:22])=[NH+:23][C-:24]([C:25]#[N:26])[C:27]#[N:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21]#[N:22])[NH:23][C:24]2([C:25]#[N:26])[C:27]#[N:28],water,298.15,23.24072476647453,-20.68300419376669
4695,5352,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]#[N+:13][C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]([CH3:11])=[N:13][C:14]2([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,17.904807379854446,-36.9912498920466
1511,1666,[CH3:17][O:18][C:19](=[O:20])[CH:21]=[NH+:22][C-:23]([CH3:24])[C:25]#[N:26].[CH3:1][C:2](=[O:3])/[C:4](=[C:5](/[C:6]([CH3:7])=[O:8])[C:9]([F:10])([F:11])[F:12])[C:13]([F:14])([F:15])[F:16]>>[CH3:1][C:2](=[O:3])[C@@:4]1([C:13]([F:14])([F:15])[F:16])[C@@:5]([C:6]([CH3:7])=[O:8])([C:9]([F:10])([F:11])[F:12])[C:23]([CH3:24])([C:25]#[N:26])[NH:22][CH:21]1[C:19]([O:18][CH3:17])=[O:20],water,298.15,18.05785701918633,-0.6986548055537459
2798,3109,[CH3:27][C:28](=[O:29])[C:30]([CH3:31])=[O+:32][N-:33][c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1.[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1)[N:33]([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[O:32][C:30]2([C:28]([CH3:27])=[O:29])[CH3:31],water,298.15,21.9042002004294,-36.81925680753019
1579,1748,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[NH:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[N:1]#[C:2][C:3]12[CH:4]([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:21]([C:22]([CH3:23])=[O:24])([C:25]([CH3:26])=[O:27])[N:19]([CH3:20])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,31.680777375250965,-18.882818583225447
5148,5846,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[c:18]1[o:19][c:20](=[O:21])[c-:22](-[c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[n+:29]1[CH3:30]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:22]1([c:23]3[cH:24][cH:25][cH:26][cH:27][cH:28]3)[C:20](=[O:21])[O:19][C:18]2([C:16]([CH3:15])=[O:17])[N:29]1[CH3:30],water,298.15,31.25983195062853,14.740213035013
467,509,[CH2:11]=[N+:12]([CH3:13])[C-:14]([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH2:11][N:12]([CH3:13])[C:14]2([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20],water,298.15,18.55536680021983,-26.52613486355725
4506,5139,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([C:13]#[N:14])=[N+:15]([CH3:16])[C-:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([CH3:18])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:15]([CH3:16])[C:12]2([CH3:11])[C:13]#[N:14],water,298.15,30.90510098187369,-12.772283010288191
